data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=O)C1=CC2=C([CH:10]=[CH:11]C=C2)C=C1.O[S+:20](=O)=O>>CC(=O)C1=CC2=C(C=C1)[CH:10]([CH+:11]C=C2)[S:20](=O)(=O)O 10,11=10,20
[H:20][O+:21]=C1CCC(CC1)C2=CC=C(C=C2)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C(CO)O>>[H:20][OH2+:10].CC1=CC=C(C=C1)C2CCC(=[O:21])CC2.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C(CO)O 10=20;20,21=21
CC[O:11][Si-:10](C)(C)(C)F>>CC[O-:11].C[Si:10](C)(C)F 10,11=11
CCOC(=O)[CH:20](C1(CCCCC1)[O-:10])[Cl:21].CC(C)(C)O>>CCOC(=O)[CH:20]1C2([O:10]1)CCCCC2.[Cl-:21].CC(C)(C)O 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)[CH:20]([O:21]2)[CH-:10]CC5)O)C=C1.N#N.O.[K+]>>COC1=C(C2=C(CC3C4(C2(CCN3CC5CCC5)[CH:20]=[CH:10]CC4)O)C=C1)[O-:21].N#N.O.[K+] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1CC#C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C#CC[C:22]1=[C:21](C=CC=C1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][CH2:21][C:22](C)(Br)[Br:23].[NH2-:10]>>[H:20][NH2:10].C[C:22](=[CH2:21])Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC12CCC(C=C1)(C(C2CC=C)(C)[OH:10])OC>>[H:20][OH+:10]C1(C(C2(CCC1(C=C2)OC)C)CC=C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
COC1=C(C2=C(CC3C4C2(CCN3CC5CC5)[CH:11]=[C:10]([CH+:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C(C2=C(CC3C4C2(CCN3CC5CC5)[CH+:11][C:10](=[CH:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10,11=10,20
CC(=[N+]1CCCC1)C[C:20](C=C)([O-:10])[Cl:21]>>CC(=[N+]1CCCC1)C[C:20](=[O:10])C=C.[Cl-:21] 10=20;20,21=21
C[C:11]1(CCCC[CH+:20]1)[CH3:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[CH3:10][CH:20]1CCCC[C+:11]1C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10,11=10,20
CC1=C(C=C2C(=C1)OC3C2(O[C:20]([O:21]C3=O)(C)[O-:10])C)OC.CC(=O)O.[Na+]>>CC1=C(C=C2C(=C1)OC(C2(C)O[C:20](=[O:10])C)C(=O)[O-:21])OC.CC(=O)O.[Na+] 10=20;20,21=21
[H:20][OH2+:21].CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH:12][N:11]=[O:10])OC.[B-](F)(F)(F)F.[Cl-]>>[H:20][O:10][N:11]=[NH+:12]C1=C(C=CC2=C1CCC3C2CCC4(C3CCC4=O)C)OC.[OH2:21].[B-](F)(F)(F)F.[Cl-] 10,11=10,20;20,21=21;12=11
C1CN(CC[C:20]1([OH:10])[OH+:21]CCO)C2=CC=C(C=C2)C#N.C1CCOC1.O.OS(=O)(=O)[O-]>>C(CO)[OH:21].C1CN(CC[C:20]1=[OH+:10])C2=CC=C(C=C2)C#N.C1CCOC1.O.OS(=O)(=O)[O-] 10=20;20,21=21
CCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCC)O>>CCCC1=CC=C[N:21]=C1.CCOCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
[Li:20][OH+]C1C2C3CCC(C3)C1(C4C2CC=C4)Cl.[OH-:10]>>[Li-:20]([OH:10])[OH+]C1C2C3CCC(C3)C1(C4C2CC=C4)Cl 10=20,
[H:20][C:21]1(C=C(C2=C([C+:22]1OC)C=CC=C2)Br)Br.[Br-:10]>>[H:20][Br:10].CO[C:22]1=[C:21](C=C(C2=C1C=CC=C2)Br)Br 10=20;20,21=21,22
CC(CC[C:20](=[OH+:21])O)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(CC[C:20](O)([OH:21])[OH+:10]C)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[SH:10].[Br:20][Br:21]>>C[SH+:10][Br:20].[Br-:21] 10=20;20,21=21
[H:20][O:21]C(C)(C)C#N.CC[O-:10]>>[H:20][O:10]CC.CC(C)(C#N)[O-:21] 10=20;20,21=21
[H:20][C:21]1([C:22](=[NH+:23]C(=C1C(=O)OCC)C)C)C(=O)OCC.[OH-:10].CO.N.O>>CCOC(=O)C1=C([NH:23][C:22](=[C:21]1C(=O)OCC)C)C.[H:20][OH:10].CO.N.O 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)[N+:21](=[CH:20]C2=CC(=CC=C2)Cl)[Fe-](Cl)(Cl)Cl.C[Si](C)(C)C[CH:11]=[CH2:10]>>CC1=CC=C(C=C1)S(=O)(=O)[N:21]([CH:20]([CH2:10][CH+:11]C[Si](C)(C)C)C2=CC(=CC=C2)Cl)[Fe-](Cl)(Cl)Cl 10,11=10,20;20,21=21
[H:20][N+:21](=CC1=COC2=C(C1=O)C=CC=C2)C3=CC=C(C=C3)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=CC=C(C=C1)[N:21]=CC2=COC3=C(C2=O)C=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)C1(C2=C(C=CC=C2)S(=O)(=O)N1)C(=C)C([N:10](C3=CC=CC=C3)S(=O)(=O)C4=CC=C(C=C4)C)O>>[H:20][N+:10](C1=CC=CC=C1)(C(C(=C)C2(C3=C(C=CC=C3)S(=O)(=O)N2)C(=O)OCC)O)S(=O)(=O)C4=CC=C(C=C4)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CCOC(=O)C[C:20](=[O:21])Cl.C(=S)(N)N[NH2:10].C1=CC=NC=C1>>CCOC(=O)C[C:20]([NH2+:10]NC(=S)N)([O-:21])Cl.C1=CC=NC=C1 10=20;20,21=21
[H:20][O:21]C(=O)C1=C(C(=CC=C1COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(F)(F)F)OCC=C.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)O>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C=CCOC1=C(C(=CC=C1C(F)(F)F)COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(=O)[O-:21].CC(C)O 10=20;20,21=21
C[S+:20](N)[O-:10]>>C[S:20](=[O:10])N 10=20,
C[Mg:20]I.C[P:10](Cl)Cl>>C[Mg-:20]([P+:10](C)(Cl)Cl)I 10=20,
[Li:11][CH2:10]CCC[CH:20]=[CH:21][C:22](=[O:23])OC(C)(C)C.CCCCI>>[Li+:11].CCCCI.CC(C)(C)O[C:22](=[CH:21][CH:20]1[CH2:10]CCC1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23
C[C:20](=[O:21])C.[CH2-:10]C1=NC=CC=C1>>C[C:20](C)([CH2:10]C1=NC=CC=C1)[O-:21] 10=20;20,21=21
CC(C[CH:20]=[O+:21][Zn-](Cl)Cl)C1(CCC([CH:10]=[C:11]1C[Si](C)(C)C)(C)C=C)C.[Cl-]>>CC1C[CH:20]([CH:10]2[C+:11](C1(CCC2(C)C=C)C)C[Si](C)(C)C)[O:21][Zn-](Cl)Cl.[Cl-] 10,11=10,20;20,21=21
[H:20][N+:21]1=C2CCCCCN2CCC1.[OH2:10]>>[H:20][OH2+:10].C1CCC2=[N:21]CCCN2CC1 10=20;20,21=21
C1=CC=C(C=C1)C(=CC[C:20](=[O:21])C2=CC=CO2)[NH:10]CC(=O)O.CC(=O)O.O>>C1C=C([NH+:10]([C:20]1(C2=CC=CO2)[O-:21])CC(=O)O)C3=CC=CC=C3.CC(=O)O.O 10=20;20,21=21
